US07208494B2
d) (R)-4,7-Dimethyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
This compound was prepared in analogy to Example 3, intermediate m) from (R)-4,7-dimethyl-1,2,3,4-tetrahydro-2,4a,5-triaza-fluorene, di-tert-butyl-dicarbonate and 4-(dimethylamino)pyridine.

reactant | (R)-4,7-dimethyl-1,2,3,4-tetrahydro-2,4a,5-triaza-fluorene | C[C@@H]1CNCC2=CC3=CC(=CN=C3N12)C | C12H15N3
reactant | di-tert-butyl-dicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | (R)-4,7-Dimethyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC3=CC(=CN=C3N2[C@@H](C1)C)C | C17H23N3O2
